US09326987B2
N-[5-[4-(5-{[(3R,5S)-3,5-Dimethyl-4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide
6-Bromo-4-(5-{[(3R,5S)-3,5-dimethyl-4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazole (172 mg, 0.300 mmol), N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide (108 mg, 0.330 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride (43.9 mg, 0.060 mmol) and potassium phosphate tribasic (191 mg, 0.900 mmol) were added to a microwave vial and dissolved in 1,4-dioxane (2.5 ml) and water (0.25 ml). The mixture was heated under microwave irradiation at 100° C. for 20 mins. The mixture was passed through a 1 g silica SPE cartridge, washing with MeOH. The solvent was removed under a stream of nitrogen and the residue was partitioned between DCM (10 ml) and water (10 ml), separated with a hydrophobic frit and the solvent again removed under a stream of nitrogen. The protected compound was dissolved in 1,4-dioxane (1 ml) and sodium hydroxide (1 ml, 2.000 mmol) and stirred at room temperature for 4 h. The mixture was evaporated to dryness under a stream of nitrogen. The residue was partitioned between ethyl acetate (5 ml) and saturated ammonium chloride (2 ml) and separated with a hydrophilic frit. The solvent was removed under a stream of nitrogen and the crude residue was dissolved in DMSO (1 ml) and purified by high pH MDAP (Method E). The appropriate fraction was blown to dryness to give the title compound as a white solid (40 mg).

reactant | 6-Bromo-4-(5-{[(3R,5S)-3,5-dimethyl-4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazole | 0.300 mmol, 172 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CN1C[C@H](N([C@H](C1)C)C(C)C)C | C25H29BrN6O3S
reactant | N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide | 0.330 mmol, 108 mg | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
reactant | potassium phosphate tribasic | 0.900 mmol, 191 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | sodium hydroxide | 2.000 mmol, 1 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.25 ml | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 0.060 mmol, 43.9 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-[5-[4-(5-{[(3R,5S)-3,5-Dimethyl-4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide | 40 mg | C[C@@H]1CN(C[C@@H](N1C(C)C)C)CC1=NN=C(O1)C1=C2C=NNC2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C | C26H34N8O4S
